US04762835
A solution of 3-benzyl-4-fluorobenzaldehyde (5 g) in methanol (75 cm3) was cooled to 0° C. Sodium borohydride (1.34 g) was added in portions, and the mixture stirred for 1 hour. The reaction mixure was then poured cautiously into a mixture of water and diethyl ether, and the organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulphate. Evaporation of the solvents under reduced pressure gave a pale yellow oil which was purified by distillation in a kugelrohr apparatus to give 3-benzyl-4-fluorobenzyl alcohol (4.0 g).

reactant | 3-benzyl-4-fluorobenzaldehyde | 5 g | C(C1=CC=CC=C1)C=1C=C(C=O)C=CC1F | C14H11FO
reactant | Sodium borohydride | 1.34 g | [BH4-].[Na+]
reactant | water | O | H2O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 75 cm3 | CO | CH4O
product | 3-benzyl-4-fluorobenzyl alcohol | 4.0 g | C(C1=CC=CC=C1)C=1C=C(CO)C=CC1F | C14H13FO
